US05698526
Trans-2-ethoxycarbonyl-cyclopropyl isocyanate
Diphenylphosphoryl azide (0.54 mL, 2.53 mmol) and triethyl amine (0.35 mL, 2.53 mmol) were added dropwise to a solution of trans-2-ethoxycarbonyl-cyclopropane carboxylic acid (0.4 g, 2.53 mol) in toluene (5 mL) at room temperature. After 1 hour, the mixture was diluted with toluene (10 mL), washed with water (1×), 0.1N HCl (1×) and brine (1×), and dried (Na2SO4). The solution of trans-2-carboethoxy-cyclopropane carbonyl azide was heated at 100° C. for 1 hour producing a solution of the title compound which was used as is.

reactant | Diphenylphosphoryl azide | 2.53 mmol, 0.54 mL | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | triethyl amine | 2.53 mmol, 0.35 mL | C(C)N(CC)CC | C6H15N
reactant | trans-2-ethoxycarbonyl-cyclopropane carboxylic acid | 2.53 mol, 0.4 g | C(C)OC(=O)[C@H]1[C@@H](C1)C(=O)O | C7H10O4
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | Trans-2-ethoxycarbonyl-cyclopropyl isocyanate | C(C)OC(=O)[C@H]1[C@@H](C1)N=C=O | C7H9NO3
